* Schematics Netlist *



R_R1         Vin $N_0001  5k  
R_R2         Vout $N_0002  10k  
C_C1         0 Vout  80p  
C_C2         0 $N_0001  25p  
V_V1         $N_0002 0 5V
V_V2         $N_0003 0 1.8V
V_V3         Vin 0 DC 0V AC 1V 
M_M1         Vout $N_0003 $N_0001 0 MbreakN-X           
